US07820823B2
3-(4-Benzyloxycarbonylamino-2-fluoro-phenyl)-acrylic Acid Ethyl Ester
A suspension of 9.72 g (4-bromo-3-fluoro-phenyl)-carbamic acid benzyl ester (30 mmol), 6 g ethyl acrylate (60 mmol), 10.2 ml DIPEA (60 mmol), 112 mg palladium acetate (3 mmol), and 1.57 g triphenylphosphine (6 mmol) in 10 ml DMF were stirred at 130° C. for 48 h. The reaction was monitored by TLC. The DMF was evaporated, the residue dissolved in dichloromethane, washed with water and brine, dried over Mg sulfate, filtered and the filtrate evaporated. The residue was purified by chromatography, using a 7/3 N-hexane/ethyl acetate mixture as eluent.

reactant | (4-bromo-3-fluoro-phenyl)-carbamic acid benzyl ester | 30 mmol, 9.72 g | C(C1=CC=CC=C1)OC(NC1=CC(=C(C=C1)Br)F)=O | C14H11BrFNO2
reactant | ethyl acrylate | 60 mmol, 6 g | C(C=C)(=O)OCC | C5H8O2
reactant | DIPEA | 60 mmol, 10.2 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | triphenylphosphine | 6 mmol, 1.57 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
catalyst | palladium acetate | 3 mmol, 112 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-(4-Benzyloxycarbonylamino-2-fluoro-phenyl)-acrylic Acid Ethyl Ester | C(C)OC(C=CC1=C(C=C(C=C1)NC(=O)OCC1=CC=CC=C1)F)=O | C19H18FNO4
